US06313132B1
28.3 (R)-N,N-Diisopropyl-3-(5-amino-2-hydroxyphenyl)-3-phenylpropanamine
A solution of Na2S2O4 (1.23 g, 12.8 mmol) in water (10 mL) was added to a solution of (R)-N,N-diisopropyl-3-[2-hydroxy-5-(4-methylphenylazo)phenyl]-3-phenylpropanamine (0.55 g, 1.28 mmol) in ethanol (50 mL) at 75° C. during 15 min. More dry Na2S2O4 (1.23 g, 12.8 mmol) was added in 10 portions. Water was added to the solution which was then extracted with diethyl ether. The organic layer was dried (MgSO4) and evaporated to give an oil, which was chromatographed on silica (n-hexane-ethanol-triethylamine 7:3:1) to give an oil. The product was dissolved in ethanol and hydrogen chloride in diethyl ether was added. The solvent was evaporated, redissolved in water and vacuum-dried wich yielded 0.25 g (60%).

reactant | Na2S2O4 | 12.8 mmol, 1.23 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | (R)-N,N-diisopropyl-3-[2-hydroxy-5-(4-methylphenylazo)phenyl]-3-phenylpropanamine | 1.28 mmol, 0.55 g | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)N=NC1=CC=C(C=C1)C)O)C(C)C | C28H35N3O
reactant | Na2S2O4 | 12.8 mmol, 1.23 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-N,N-Diisopropyl-3-(5-amino-2-hydroxyphenyl)-3-phenylpropanamine | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)N)O)C(C)C | C21H30N2O
